US07326710B2
(IV-30) N1-phenacyl-N4-[2-(4-methoxybenzylamino)-2-oxo-ethyl]piperazine dihydrochloride
A mixture of N-(4-methoxybenzyl)-2-chloroacetamide (3.65 mmol), N-phenacyl piperazine dihydrochloride (3.97 mmol) and K2CO3 (10.5 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-30)(61%), M+ 381.

reactant | N-(4-methoxybenzyl)-2-chloroacetamide | 3.65 mmol | COC1=CC=C(CNC(CCl)=O)C=C1 | C10H12ClNO2
reactant | N-phenacyl piperazine dihydrochloride | 3.97 mmol | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 10.5 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-phenacyl-N4-[2-(4-methoxybenzylamino)-2-oxo-ethyl]piperazine dihydrochloride | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)CC(=O)NCC1=CC=C(C=C1)OC | InChI=1S/C22H27N3O3.2ClH/c1-28-20-9-7-18(8-10-20)15-23-22(27)17-25-13-11-24(12-14-25)16-21(26)19-5-3-2-4-6-19;;/h2-10H,11-17H2,1H3,(H,23,27);2*1H
